US03966947
To a solution of p-thiocyanophenyl isocyanate (5.25g., 0.0298 mole) in 100 ml. of benzene was added 3-pyridyl carbinol (3.25g., 0.0298 mole). An immediate exothermic reaction took place and a solid precipitated. After standing over the weekend 5.5g. of solid was isolated and after recrystallization from toluene this gave 4.0g. melting at 188°-191°C. This was a 47% yield of 3-pyridylmethyl N-(4'-thiocyanophenyl)carbamate.

reactant | p-thiocyanophenyl isocyanate | 0.0298 mole, 5.25g | S(C#N)C1=CC=C(C=C1)N=C=O | C8H4N2OS
reactant | 3-pyridyl carbinol | 0.0298 mole, 3.25g | N1=CC(=CC=C1)CO | C6H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-(4'-thiocyanophenyl)carbamate | 47% yield | S(C#N)C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C14H11N3O2S
